US08426411B2
To a solution of 8-iodo-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.050 g, 0.12 mmol, prepared using KK from Preparation #GGG.1.1 and NaH), TEA (0.034 mL, 0.24 mmol), MeOH (0.25 mL, 6.2 mmol), and DMF (0.6 mL) purged with nitrogen was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.0098 g, 0.012 mmol). The mixture was purged with CO and a balloon of CO was attached to the reaction vessel. The mixture was warmed to about 100° C. After about 4.5 h, the solution was allowed to cool to ambient temperature. Water (5 mL) was added and the mixture was extracted with EtOAc (2×10 mL). The combined organics were dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The crude material was purified by silica gel chromatography eluting with a gradient of 25-75% EtOAc/heptane over 30 min to afford methyl 6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carboxylate (0.0311 g, 74%): LC/MS (Table 1, Method n) Rt=0.74 min; MS m/z: 348 (M+H)+.

reactant | 8-iodo-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.12 mmol, 0.050 g | IC1=CN(C=2N=CC=3N(C21)C=NN3)COCC[Si](C)(C)C | C13H18IN5OSi
reactant | MeOH | 6.2 mmol, 0.25 mL | CO | CH4O
reactant | DMF | 0.6 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.012 mmol, 0.0098 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carboxylate | 0.0311 g, 74% | C[Si](CCOCN1C=C(C2=C1N=CC=1N2C=NN1)C(=O)OC)(C)C | C15H21N5O3Si
